US07345038B2
To a solution of 2-chloro-5-(chloromethyl)pyridine (578 mg, 3.57 mmole) in 7 mL of dry acetonitrile is added 0.71 mL (7.14 mmol) of piperdine followed by 493 mg (3.57 mmol) of potassium carbonate. The reaction is heated at 80° C. for 20 h. After cooling, the reaction mixture is quenched with 5 mL of water, extracted three-times with methylene chloride, and dried over sodium sulfate. Concentration of the solvent provided an oil which was purified by silica gel chromatography to provide 581 mg (77% yield) of 2-Chloro-5-piperidin-1-ylmethyl-pyridine. Diagnostic 1H NMR (400 MHz, CDCl3) 1.40–1.65 (m, 6H), 2.20–2.39 (s, 4H), 3.47 (s, 2H), 7.28 (d, 1H, J=7.9 Hz), 8.60–8.69 (m, 1H), 8.28 (d, 1H, J=2.1 Hz); MS 211.3 (M+H).

reactant | 2-chloro-5-(chloromethyl)pyridine | 3.57 mmole, 578 mg | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | piperdine | 7.14 mmol, 0.71 mL | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 3.57 mmol, 493 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | 2-Chloro-5-piperidin-1-ylmethyl-pyridine | 581 mg, 77% yield | ClC1=NC=C(C=C1)CN1CCCCC1 | C11H15ClN2
